US08809333B2
To a solution of the 3-methyl-4-phenylpyrazole (400 mg, 2.53 mmol, 1 eq) in THF (25 mL) was added cesium carbonate (2.52 g, 7.70 mmol, 3 eq) and (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (950 mg, 3.31 mmol, 1.3 eq). The resulting suspension was heated to 70° C. and stirred overnight. The reaction was filtered through celite, and the filter pad was washed with ethyl acetate (2×100 mL). Combined filtrates were concentrated and the crude material was purified on a Analogix SF15-24 g column using an eluant of ethyl acetate in heptane (0-80%) to give ethyl (2R)-2-methyl-4-(3-methyl-4-phenyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)butanoate (178 mg, 19.3%). LC-MS M+H+365.1.

reactant | 3-methyl-4-phenylpyrazole | 2.53 mmol, 400 mg, 1 eq | CC1=NNC=C1C1=CC=CC=C1 | C10H10N2
reactant | cesium carbonate | 7.70 mmol, 2.52 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 3.31 mmol, 950 mg, 1.3 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | ethyl (2R)-2-methyl-4-(3-methyl-4-phenyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)butanoate | 178 mg, 19.3% | C[C@](C(=O)OCC)(CCN1N=C(C(=C1)C1=CC=CC=C1)C)S(=O)(=O)C | C18H24N2O4S
